US05523278
Preparation of 7-Fluoro-4-hydroxycoumarin
A mixture of 3-fluorophenol (31.5 g, 0.281 mol), malonic acid (29.24 g, 0.281 g) and zinc chloride (100.0 g, 0.734 mol) in phosphorus oxychloride (70 mL, 0.751 mol) is heated at 65° C. overnight and poured into an ice/water mixture. The resultant aqueous mixture is filtered to obtain a pale green solid. A mixture of the solid in 10% sodium hydrogen carbonate solution is stirred at room temperature for 2 hours, decolorized with charcoal and filtered through diatomaceous earth. The filtrate is acidified with concentrated hydrochloric acid and the resultant precipitate is collected and dried to give the title product as a brown solid, mp 229°-230° C.

reactant | 3-fluorophenol | 0.281 mol, 31.5 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | malonic acid | 29.24 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | phosphorus oxychloride | 0.751 mol, 70 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | charcoal | C | CH4
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | zinc chloride | 0.734 mol, 100.0 g | [Cl-].[Zn+2].[Cl-]
product | 7-Fluoro-4-hydroxycoumarin | FC1=CC=C2C(=CC(OC2=C1)=O)O | C9H5FO3
